*CONDUCTION NMOS W1

.INCLUDE 22nm_MGK.pm
.OPTIONS GMIN=1e-020 ABSTOL=1e-18

*Definizione dei parametri
.PARAM Lmin=22n
.PARAM Wmin=22n
.PARAM Ldiff=44n
	
*Descrizione della cella
Mn drain gate source body nmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
Vd 	drain	0		0
Vg 	gate	alim		0
Vs 	source	0		0
Vb 	body	0		0
Vdd 	alim	0		0

*Definizione del tipo di analisi
.CONTROL
let voltage=0
let Vddbasic=1.2
while voltage le Vddbasic
  let voltage = voltage + 0.05
  alter Vdd = voltage
  dc TEMP 30 90 60
  print abs(V(alim)) V(drain) V(gate) V(source) V(body) I(Vd) I(Vg) I(Vs) I(Vb)
end
.ENDC
.END
