.INCLUDE 45nm_HP.pm
.OPTIONS GMIN=1e-020 ABSTOL=1e-18

* Definizione dei parametri
.PARAM Lmin=45n
.PARAM Wmin=45n
.PARAM Ldiff=90n

* Descrizione della cella
Mn1 dd in1 dum 0 nmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
Mn2 out in2 0 0 nmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}

Vdd dd	0	0
Va 	in1	0	0
Vb  in2 0  0
Vlk dum out 0

* Definizione del tipo di analisi
.CONTROL

* Input combinations: 00
alter Vdd = 1  
alter Va = 0
alter Vb = 0
dc TEMP 85 85 1
print V(dd) V(in1) V(in2) V(out) I(Vlk)

* Input combinations: 01
alter Vdd = 1
alter Va = 0
alter Vb = 1
dc TEMP 85 85 1
print V(dd) V(in1) V(in2) V(out) I(Vlk)

* Input combinations: 10
alter Vdd = 1
alter Va = 1
alter Vb = 0
dc TEMP 85 85 1
print V(dd) V(in1) V(in2) V(out) I(Vlk)
* Input combinations: 11
alter Vdd = 0
alter Va = 1
alter Vb = 1
dc TEMP 85 85 1
print V(dd) V(in1) V(in2) V(out) I(Vlk)

.ENDC
.END